US08541588B2
5-Chloro-2-fluoro-N-(5-fluoropyridin-2-yl)-4-[2-piperidin-4-yl-4-(trifluoromethyl)phenoxy]benzenesulfonamide
A mixture of tert-butyl 4-[2-hydroxy-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate (Preparation 317, 51 mg, 0.15 mmol), 5-chloro-2,4-difluoro-N-(5-fluoropyridin-2-yl)-N-(methoxymethyl)benzenesulfonamide (Preparation 349, 50 mg, 0.1 mmol) and potassium carbonate (28 mg, 0.20 mmol) in anhydrous dimethyl sulfoxide (2 mL) was heated at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature and diluted with ethyl acetate and water. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution, water, dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a light yellow thick oil, which was used in the next step without further purification. The residue was diluted with dichloromethane (2 mL), trifluoroacetic acid (210 uL, 2.7 mmol) was added and solution stirred at room temperature for 18 hours. The reaction solution was concentrated in vacuo and purified by preparative HPLC to afford the title compound as a white powder, 55.3 mg (as the trifluoroacetic acid salt)

reactant | tert-butyl 4-[2-hydroxy-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate | 0.15 mmol, 51 mg | OC1=C(C=C(C=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22F3NO3
reactant | 5-chloro-2,4-difluoro-N-(5-fluoropyridin-2-yl)-N-(methoxymethyl)benzenesulfonamide | 0.1 mmol, 50 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(COC)C1=NC=C(C=C1)F)F)F | C13H10ClF3N2O3S
reactant | potassium carbonate | 0.20 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-Chloro-2-fluoro-N-(5-fluoropyridin-2-yl)-4-[2-piperidin-4-yl-4-(trifluoromethyl)phenoxy]benzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)NC1=NC=C(C=C1)F)F)OC1=C(C=C(C=C1)C(F)(F)F)C1CCNCC1 | C23H19ClF5N3O3S
